US07074801B1
6-Bromo-2,3-dihydroimidazo[1,2-a]pyridine-3-carbonitrile
7.64 g of 2-(5-bromo-2-pyridinylamino)-1-cyanoethyl toluene-4-sulfonate was dissolved in 76 mL acetonitrile, and the mixture was heated for 15 hours under reflux. After the solvent was removed, an aqueous saturated sodium bicarbonate was poured into the reaction product which was then extracted with dichloromethane, and the organic layer was dried over anhydrous sodium sulfate and filtered through NH silica gel. The solvent was removed, whereby 3.83 g of the title compound (yellow solid) was obtained.

reactant | 2-(5-bromo-2-pyridinylamino)-1-cyanoethyl toluene-4-sulfonate | 7.64 g | C1(=CC=C(C=C1)S(=O)(=O)OC(CNC1=NC=C(C=C1)Br)C#N)C | C15H14BrN3O3S
solvent | acetonitrile | 76 mL | C(C)#N | C2H3N
product | 6-Bromo-2,3-dihydroimidazo[1,2-a]pyridine-3-carbonitrile | 3.83 g | BrC=1C=CC=2N(C1)C(CN2)C#N | C8H6BrN3
